simulator lang=spice
* spice section — `;` is a SPICE inline comment, `key = value` spacing
.subckt inv a y vdd vss
Mn y a vss vss nch w = 1u
Mp y a vdd vdd pch w = 2u
.ends
Xinv in out vdd gnd inv
Cload out gnd 10f ; spice inline comment
simulator lang=spectre
// spectre section — `//` is a comment, `key=value` no spaces, paren nodes
parameters vdd=1.2
Vdd (vdd 0) vsource dc=vdd
M1 (d g 0 0) nch w=1u l=1u // spectre inline comment
R1 (a b) resistor r=1k
simulator lang=spice
* back to spice — verify the switch is per-section, not file-wide
R2 a b 2k ; second spice section