// spectre-only — no `simulator lang=` directive anywhere.
// Unchanged-behavior guard: must format byte-identically to a plain
// spectre-dialect deck.
parameters vdd=1.2
Vdd (vdd 0) vsource dc=vdd
M1 (d g 0 0) nch w=1u l=1u
R1 (a b) resistor r=1k