simulator lang=spice
* SPICE-only deck opened with a spice switch and never switches back.
* Correctness anchor: this case already "works" today because the whole
* file is parsed as spectre, but the `;` inline comment below must be
* preserved as a comment (it would be mis-tokenized under spectre).
.subckt inv a y vdd vss
Mn y a vss vss nch w=1u
Mp y a vdd vdd pch w=2u
.ends
Xinv in out vdd gnd inv
Cload out gnd 10f ; load cap — `;` is a SPICE inline comment
Vdd vdd gnd 1.2
Vin in gnd pulse(0 1.2 0 100p 100p 1n 2n)